US08053431B2
To a solution of 4-(2-hydroxy-ethylamino)-3-nitro-benzoic acid methyl ester (3.0 g, 12.4 mmol) in methanol was added 10% Pd/C (800 mg). The mixture was hydrogenated at 1 atmospheric pressure for 2 h. The catalyst was filtered off and the methanol evaporated to give 2.6 g (99%) of 3-amino-4-(2-hydroxyethylamino)-benzoic acid methyl ester.

reactant | 4-(2-hydroxy-ethylamino)-3-nitro-benzoic acid methyl ester | 12.4 mmol, 3.0 g | COC(C1=CC(=C(C=C1)NCCO)[N+](=O)[O-])=O | C10H12N2O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | 3-amino-4-(2-hydroxyethylamino)-benzoic acid methyl ester | 2.6 g, 99% | COC(C1=CC(=C(C=C1)NCCO)N)=O | C10H14N2O3
